US07838674B2
Intermediate K: 1-[4-(4,4,5,5-Tetramethyl-[1,3,2]dioxaborolan-2-yl)-benzyl]-piperidine
2-(4-Bromomethyl-phenyl)-4,4,5,5-tetramethyl-[1,3,2]dioxaborolane (250 mg; 0.84 mmol), piperidine (94 mg; 1.1 mmol) and K2CO3 (140 mg; 1.01 mmol) in DMF (4 ml) are heated to 80° C. for 45 minutes. The reaction mixture is cooled to room temperature, diluted with TBME, filtered and evaporated to dryness to deliver the title compound as orange crystals.

reactant | 2-(4-Bromomethyl-phenyl)-4,4,5,5-tetramethyl-[1,3,2]dioxaborolane | 0.84 mmol, 250 mg | BrCC1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C | C13H18BBrO2
reactant | piperidine | 1.1 mmol, 94 mg | N1CCCCC1 | C5H11N
reactant | K2CO3 | 1.01 mmol, 140 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 4 ml | CN(C)C=O | C3H7NO
solvent | TBME | CC(C)(C)OC | C5H12O
product | 1-[4-(4,4,5,5-Tetramethyl-[1,3,2]dioxaborolan-2-yl)-benzyl]-piperidine | CC1(OB(OC1(C)C)C1=CC=C(CN2CCCCC2)C=C1)C | C18H28BNO2
